US09085555B2
(3-Carbamoyl-6-trifluoromethoxy-indol-1-yl)-acetic acid
was prepared from 6-trifluoromethoxy-1H-indole [467451-91-8] in a similar manner as described for the preparation of (3-carbamoyl-5,6-difluoro-indol-1-yl)-acetic acid. White solid. MS (LC/MS): 303.0 [M+H]+, 605.0 [2M+H]+; tR (HPLC conditions k): 2.75 min.

reactant | 6-trifluoromethoxy-1H-indole | FC(OC1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO
reactant | (3-carbamoyl-5,6-difluoro-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=CC(=C(C=C12)F)F)CC(=O)O | C11H8F2N2O3
product | (3-Carbamoyl-6-trifluoromethoxy-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=CC(=CC=C12)OC(F)(F)F)CC(=O)O | C12H9F3N2O4
